US07192968B2
(±)-trans-N1-(tert-Butoxycarbonyl)-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine
5-Chloroindole-2-carboxylic acid (2.88 g), 1-hydroxybenzotriazole monohydrate (2.08 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.95 g) were added to a solution of (±)-trans-N-tert-butoxycarbonyl-1,2-cyclohexanediamine (3.00 g) in N,N-dimethylformamide (10 ml) at room temperature. After stirring for 3 days, the reaction mixture was concentrated under reduced pressure, and dichloromethane (30 ml), a saturated aqueous solution (150 ml) of sodium hydrogencarbonate and water (150 ml). were added to the residue. After collecting colorless precipitate formed was collected by filtration and dried to obtain the title compound (5.21 g) as a colorless solid.

reactant | 5-Chloroindole-2-carboxylic acid | 2.88 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-hydroxybenzotriazole monohydrate | 2.08 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.95 g | Cl.CN(CCCN=C=NCC)C
reactant | (±)-trans-N-tert-butoxycarbonyl-1,2-cyclohexanediamine | 3.00 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CCCC1)N | C11H22N2O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (±)-trans-N1-(tert-Butoxycarbonyl)-N2-[(5-chloroindol-2-yl)carbonyl]-1,2-cyclohexanediamine | 5.21 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CCCC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C20H26ClN3O3
